US07700641B2
Synthesis of 5-methoxy-1′-methylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
To a mixture of 5-hydroxyspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one (0.10 g, 0.39 mmol), triphenylphosphine (0.20 g, 0.76 mmol) and methanol (0.05 g, 1.6 mmol) in anhydrous tetrahydrofuran was added diethyl azodicarboxylate (0.14 g, 0.80 mmol) at 0° C. The reaction mixture was stirred at ambient temperature under N2 for 16 h and concentrated in vacuo to dryness. The brown residue was subjected to column chromatography (ethyl acetate/hexane, 1/1) to give the title compound (0.02 g, 14% yield) as a yellowish solid: mp 159-161° C.; 1H NMR (300 MHz, CDCl3) δ 7.32 (dt, 1H), 7.14 (d, 1H), 7.05 (t, 1H), 6.93-6.83 (m, 2H), 6.74 (dd, 1H), 6.25 (d, 1H), 4.89 (d, 1H), 4.63 (d, 1H), 3.63 (s, 3H), 3.28 (s, 3H); MS (ES+) 282.3 (M+1).

reactant | 5-hydroxyspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 0.39 mmol, 0.10 g | OC=1C=CC2=C(C1)C1(C(NC3=CC=CC=C13)=O)CO2 | C15H11NO3
reactant | triphenylphosphine | 0.76 mmol, 0.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | 1.6 mmol, 0.05 g | CO | CH4O
reactant | diethyl azodicarboxylate | 0.80 mmol, 0.14 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-methoxy-1′-methylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | 0.02 g, 14% yield | COC=1C=CC2=C(C1)C1(C(N(C3=CC=CC=C13)C)=O)CO2 | C17H15NO3
